US05942633
The oil obtained in Example 1 (179 grams) was dissolved in 400 mL of isopropylamine. After the reaction solution was refluxed for 2 days, the isopropylamine was distilled off and the residue was dissolved in 200 mL of toluene. The toluene was removed by vacuum distillation to give 222 grams of 1-{4-[2-(Cyclopropylmethoxy)ethyl]phenoxy}-3-isopropylamino-propane-2-ol (Betaxolol free base) which was used for the preparation of the hydrochloride salt without additional purification. The Betaxolol free base was dissolved in 300 mL of toluene containg 20 mL of isopropanol. A stream of hydrogen chloride gas was passed through the above solution at 0° C. until the reaction mixture pH was less than 3.0. The solvent was removed by vacuum distillation, and the residue was crystallized from 400 mL of acetone to give 102 grams (99% pure) of Betaxolol hydrochloride.

reactant | Betaxolol | CC(C)NCC(COC=1C=CC(=CC1)CCOCC2CC2)O | C18H29NO3
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | C(C)(C)O | C3H8O
product | Betaxolol hydrochloride | 102 grams, 99% | CC(C)NCC(COC=1C=CC(=CC1)CCOCC2CC2)O.Cl | InChI=1S/C18H29NO3.ClH/c1-14(2)19-11-17(20)13-22-18-7-5-15(6-8-18)9-10-21-12-16-3-4-16;/h5-8,14,16-17,19-20H,3-4,9-13H2,1-2H3;1H
